US04540815
The dark butanolic solution, obtained according to European Pat. No. 0,011,048 by reaction of 213 parts of 2,4-dinitrochlorobenzene with 632 parts of n-butanol and 42 parts of sodium hydroxide, after hydrogenation and acetylation, of 6-n-butoxy-3-acetylamino-aniline which, according to HPLC analysis, contains, in addition to 195 parts of target product, 11.9 parts of 2,4-bis-acetylamino-1-n-butoxy-benzene and 8.1 parts of 2,4-diamino-1-n-butoxybenzene, in addition to unknown decomposition products formed by oxidation, is precipitated by gassing with 35-40 parts of hydrogen chloride at 20°-30° C. for one hour and, after cooling to 0°-5° C., the precipitate is filtered off with suction, washed twice with 50 parts of methanol each time and dried in vacuo. 221.2 parts of 6-n-butoxy-3-acetylamino-aniline hydrochloride are obtained which, besides about 3% of magnesium chloride, contains no impurities at all which can be detected by HPLC analysis (purity by diazotization: 95.8%). This corresponds to a yield of 214.1 parts of 100% pure 6-n-butoxy-3-acetylamino-aniline hydrochloride (82.8% of theory, based on 2,4-dinitrochlorobenzene).

reactant | 2,4-dinitrochlorobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 6-n-butoxy-3-acetylamino-aniline | C(CCC)OC1=CC=C(C=C1N)NC(C)=O | C12H18N2O2
reactant | 2,4-bis-acetylamino-1-n-butoxy-benzene | C(C)(=O)NC1=C(C=CC(=C1)NC(C)=O)OCCCC | C14H20N2O3
reactant | 2,4-diamino-1-n-butoxybenzene | NC1=C(C=CC(=C1)N)OCCCC | C10H16N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-n-butoxy-3-acetylamino-aniline hydrochloride | Cl.C(CCC)OC1=CC=C(C=C1N)NC(C)=O | InChI=1S/C12H18N2O2.ClH/c1-3-4-7-16-12-6-5-10(8-11(12)13)14-9(2)15;/h5-6,8H,3-4,7,13H2,1-2H3,(H,14,15);1H
